US06919331B2
To a solution of acetic acid 5-cyano-1-(4-fluoro-butyl)-1H-benzoimidazol-2-ylmethyl ester (1.3 g, 4.5 mmol) in MeOH (50 ml), EtOH (10 ml), concentrated HCl (10 ml) and 10% Pd/C (100 mg) was hydrogenated for 2 h. The solution was filtered and concentrated. The residue was dissolved in EtOAc and washed with aq NaHCO3. The product remains in the aqueous layer. The water was removed and the residue washed with hot EtOAc. The EtOAc extracts are concentrated to give 0.32 g (18%) of [5-aminomethyl-1-(4-fluoro-butyl)-1H-benzoimidazol-2-yl]-methanol as a white solid.

reactant | acetic acid 5-cyano-1-(4-fluoro-butyl)-1H-benzoimidazol-2-ylmethyl ester | 4.5 mmol, 1.3 g | C(#N)C1=CC2=C(N(C(=N2)COC(C)=O)CCCCF)C=C1 | C15H16FN3O2
solvent | MeOH | 50 ml | CO | CH4O
solvent | EtOH | 10 ml | CCO | C2H6O
solvent | HCl | 10 ml | Cl | ClH
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | [5-aminomethyl-1-(4-fluoro-butyl)-1H-benzoimidazol-2-yl]-methanol | 0.32 g, 18% | NCC1=CC2=C(N(C(=N2)CO)CCCCF)C=C1 | C13H18FN3O
